US04493843
Methyl 3-(n-octadecanoyl)indole-6-carboxylate (35.2 g) in methanol (1620 ml), containing sodium hydroxide (32 g) and water (49 ml), was stirred and refluxed for 2 hours. The solution was cooled to room temperature and the solid was collected. The solid was suspended in water (500 ml) and aqueous hydrochloric acid (20 ml, of strength 36% w/v) was added to the suspension with rapid stirring. The solid was collected and was recrystallised from glacial acetic acid to give 3-(n-octadecanoyl)indole-6-carboxylic acid (28 g), in the form of a white solid, m.p. 268°-270° C.

reactant | Methyl 3-(n-octadecanoyl)indole-6-carboxylate | 35.2 g | C(CCCCCCCCCCCCCCCCC)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C28H43NO3
reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | water | 49 ml | O | H2O
solvent | methanol | 1620 ml | CO | CH4O
product | 3-(n-octadecanoyl)indole-6-carboxylic acid | 28 g | C(CCCCCCCCCCCCCCCCC)(=O)C1=CNC2=CC(=CC=C12)C(=O)O | C27H41NO3
